US08859773B2
Step 1: 7-bromo-N-methylisoquinolin-3-amine
A mixture of 7-bromo-3-chloroisoquinoline (100 mg, 0.4 mmol), methylamine hydrochloride (139 mg, 2.06 mmol), and potassium carbonate (456 mg, 3.30 mmol) in 1-methoxy-2-(2-methoxyethoxy)ethane (1 mL) was heated to 150° C. and stirred for 60 hours. Additional methylamine hydrochloride (100 mg, 1.5 mmol) and potassium carbonate (200 mg, 1.4 mmol) were added and heating was continued for another 40 hours. The reaction was cooled to room temperature and diluted with water. The mixture was stirred for 30 minutes. The resulting solid was filtered off, rinsed with water and dried under vacuum. Purification by flash column chromatography (10-30% ethyl acetate/heptanes) gave the title compound (82 mg) as a pale yellow solid. −APCI (M−H+1) 237.8; 1H NMR (400 MHz, CDCl3, δ): 8.70 (s, 1H), 7.84 (d, J=1.95 Hz, 1H), 7.48 (dd, J=8.97, 2.15 Hz, 1H), 7.38 (d, J=8.97 Hz, 1H), 6.39 (s, 1H), 2.92 (s, 3H).

reactant | 7-bromo-3-chloroisoquinoline | 0.4 mmol, 100 mg | BrC1=CC=C2C=C(N=CC2=C1)Cl | C9H5BrClN
reactant | methylamine hydrochloride | 2.06 mmol, 139 mg | Cl.CN
reactant | potassium carbonate | 3.30 mmol, 456 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methylamine hydrochloride | 1.5 mmol, 100 mg | Cl.CN
reactant | potassium carbonate | 1.4 mmol, 200 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1-methoxy-2-(2-methoxyethoxy)ethane | 1 mL | COCCOCCOC | C6H14O3
solvent | water | O | H2O
product | 7-bromo-N-methylisoquinolin-3-amine | 82 mg | BrC1=CC=C2C=C(N=CC2=C1)NC | C10H9BrN2
